US07834009B2
b) 6-Methyl-3-oxo-heptanoic Acid Ethyl Ester
A solution of diazo-acetic acid ethyl ester (555 mg, 4.86 mmol) in dichloromethane (8 mL) was treated with tin (II) chloride (88 mg, 0.463 mmol) and stirred vigorously at 25° C. A solution of 4-methyl-pentanal (464 mg, 4.63 mmol) in dichloromethane (2 mL) was added to the mixture dropwise over 10 min resulting in gas evolution. After the nitrogen evolution ceased (approximately 1 h), the reaction was extracted with brine and diethyl ether (2×80 mL). The organic layers were combined, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by flash column chromatography (ISCO RediSep column, 0 to 7% ethyl acetate in hexanes) to afford the desired product, 6-methyl-3-oxo-heptanoic acid ethyl ester (478 mg, 55%), as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ: 0.89 (6H, d, J=6.3 Hz), 1.26-1.29 (4H, m), 1.48-1.57 (2H, m), 2.53 (2H, t, J=7.4 Hz), 3.42 (2H, s), 4.18 (2H, quartet, J=7.6 Hz).

reactant | diazo-acetic acid ethyl ester | 4.86 mmol, 555 mg | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
reactant | tin (II) chloride | 0.463 mmol, 88 mg | [Sn](Cl)Cl
reactant | 4-methyl-pentanal | 4.63 mmol, 464 mg | CC(CCC=O)C | C6H12O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 6-methyl-3-oxo-heptanoic acid ethyl ester | 478 mg, 55% | C(C)OC(CC(CCC(C)C)=O)=O | C10H18O3
